US09260439B2
Step 7: Preparation of {(3R)-4-[4-(2-aminopyrimidin-5-yl)-7-(3,3-difluorocyclobutyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-2-yl]morpholin-3-yl}methanol
To a solution of 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfinyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine (35 mg, 0.096 mmol) in acetonitrile (0.3 mL) was added (3R)-morpholin-3-ylmethanol (68 mg, 0.576 mmol) and CsF (56 mg, 0.288 mmol), and the reaction mixture was sealed and heated at 120° C. for 96 h.

reactant | 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfinyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine | 0.096 mmol, 35 mg | FC1(CC(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)S(=O)C)F | C15H16F2N6OS
reactant | (3R)-morpholin-3-ylmethanol | 0.576 mmol, 68 mg | N1[C@@H](COCC1)CO | C5H11NO2
reactant | CsF | 0.288 mmol, 56 mg | [F-].[Cs+]
solvent | acetonitrile | 0.3 mL | C(C)#N | C2H3N
product | {(3R)-4-[4-(2-aminopyrimidin-5-yl)-7-(3,3-difluorocyclobutyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-2-yl]morpholin-3-yl}methanol | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@@H](COCC1)CO)N(CC2)C2CC(C2)(F)F | C19H23F2N7O2
